US06835471B2
Into a 5-L three-necked flask, 523.2 g (2.765 moles) of diethyl iminodiacetate, 465.4 g (5.540 moles) of sodium hydrogencarbonate and 1.4L of DMF (dimethylformamide) were put, and, keeping the mixture at about 40° C., 473.5 g (2.768 moles) of benzyl bromide was slowly dropwise added thereto with stirring. Thereafter, the mixture was stirred at about 40° C. for 16 hours. After the reaction was completed, 1.5L of water was added to the reaction product, which was then extracted with toluene (500 ml×four times). The organic layer formed was washed with water and dried with Glauber's salt. Thereafter, the solvent was evaporated to dryness to obtain 780 g of diethyl N-benzyliminodiacetate (yield: 98.8%).

reactant | diethyl iminodiacetate | 2.765 moles, 523.2 g | N(CC(=O)OCC)CC(=O)OCC | C8H15NO4
reactant | sodium hydrogencarbonate | 5.540 moles, 465.4 g | C(O)([O-])=O.[Na+]
reactant | DMF | 1.4L | CN(C=O)C | C3H7NO
reactant | benzyl bromide | 2.768 moles, 473.5 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | water | 1.5L | O | H2O
product | diethyl N-benzyliminodiacetate | 780 g, yield: 98.8% | C(C1=CC=CC=C1)N(CC(=O)OCC)CC(=O)OCC | C15H21NO4
